US07045512B2
Step 4: Preparation of 1-methylethyl 2-[4-[3-(trifluoromethyl)phenoxy]phenyl]-hydrazinecarboxylate (Compound 1)
To a suspension of 4-[3-(trifluoromethyl)phenoxy]phenylhydrazine hydrochloride (11 g) and pyridine (6.0 mL) in ethyl acetate (100 mL) at 0° C. was added dropwise isopropyl chloroformate (38 mL, 1M in toluene) over a period of 30 min. The mixture was then stirred at room temperature for 5 hour, quenched with 1M aqueous HCl (100 mL). The organic layer was separated, washed twice with water (100 mL), dried over anhydrous sodium sulfate, and finally evaporated under reduced pressure to yield a light brown solid (11 g).

reactant | 4-[3-(trifluoromethyl)phenoxy]phenylhydrazine hydrochloride | 11 g | Cl.FC(C=1C=C(OC2=CC=C(C=C2)NN)C=CC1)(F)F
reactant | pyridine | 6.0 mL | N1=CC=CC=C1 | C5H5N
reactant | isopropyl chloroformate | 1M, 38 mL | ClC(=O)OC(C)C | C4H7ClO2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1-methylethyl 2-[4-[3-(trifluoromethyl)phenoxy]phenyl]-hydrazinecarboxylate | 11 g | FC(C=1C=C(OC2=CC=C(C=C2)NNC(=O)OC(C)C)C=CC1)(F)F | C17H17F3N2O3
